US05077439
Under an atmosphere of nitrogen and while cooling with ice, 112 ml of tert-butyl mercaptan are added dropwise over 10 minutes to a solution, cooled to 5° C., of 80 g of sodium hydroxide in 750 ml of water. Then 50 ml of methanol are added. After 1 hour, 151 g of 2-bromo-4-chlorobutanal (89.5%) are added dropwise over 15 minutes with efficient stirring and cooling, whereupon the temperature of the reaction mixture rises from 5° to 20° C. After 30 minutes, the mixture is extracted 4 times with diethyl ether. The combined organic phases are washed twice with a saturated solution of sodium chloride and dried over magnesium sulfate. The residue obtained after concentrating the residue on a rotary evaporator is fractionated over a 30 cm packed column, affording 89 g of 1-formyl-1-tert-butylthiocyclopropane in 89% purity. Boiling point: 112°-114° C./8 400 Pa.

reactant | tert-butyl mercaptan | 112 ml | C(C)(C)(C)S | C4H10S
reactant | sodium hydroxide | 80 g | [OH-].[Na+]
reactant | methanol | 50 ml | CO | CH4O
reactant | 2-bromo-4-chlorobutanal | 151 g | BrC(C=O)CCCl | C4H6BrClO
solvent | water | 750 ml | O | H2O
product | 1-formyl-1-tert-butylthiocyclopropane | 89 g | C(=O)C1(CC1)SC(C)(C)C | C8H14OS
